US08012974B2
7-Chloro-5-(2-trimethylsilanyl-ethoxymethyl)-5H-pyrrolo[2,3-b]pyrazin-2-ylamine (100 mg, 0.335 mmol) was dissolved in 1,2-dichloroethane (3.4 mL). Cyclohexylisocyanate (0.43 mL, 3.35 mmol) was added and the reaction mixture was heated to reflux overnight, cooled to RT, and concentrated. The residue was dispersed in 3 mL of toluene, cyclohexylisocyanate (0.86 mL, 6.70 mmol) was added and the reaction mixture was heated to reflux overnight, and cooled to 0° C. The precipitates were filtered, washed with toluene and dried under high vacuum to give 44 mg of 1-cyclohexyl-3-[7-chloro-5-(2-trimethylsilanyl-ethoxymethyl)-5H-pyrrolo[2,3-b]pyrazin-2-yl]-urea as a white solid (31% yield).

reactant | 7-Chloro-5-(2-trimethylsilanyl-ethoxymethyl)-5H-pyrrolo[2,3-b]pyrazin-2-ylamine | 0.335 mmol, 100 mg | ClC1=CN(C2=NC=C(N=C21)N)COCC[Si](C)(C)C | C12H19ClN4OSi
reactant | Cyclohexylisocyanate | 3.35 mmol, 0.43 mL | C1(CCCCC1)N=C=O | C7H11NO
reactant | cyclohexylisocyanate | 6.70 mmol, 0.86 mL | C1(CCCCC1)N=C=O | C7H11NO
solvent | 1,2-dichloroethane | 3.4 mL | ClCCCl | C2H4Cl2
product | 1-cyclohexyl-3-[7-chloro-5-(2-trimethylsilanyl-ethoxymethyl)-5H-pyrrolo[2,3-b]pyrazin-2-yl]-urea | 44 mg, 31% yield | C1(CCCCC1)NC(=O)NC=1N=C2C(=NC1)N(C=C2Cl)COCC[Si](C)(C)C | C19H30ClN5O2Si
